US06211242B1
To a solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-ethoxycarbonylprop-1-yloxy)phenyl]benzamide (1.10 g) in dichloromethane (20 ml) was added dropwise a solution of diisobutylaluminum hydride in toluene (1.5 M solution, 2 ml) at −78° C. and the mixture was stirred at the same temperature for 2 hours. The reaction was quenched with addition of water and the resulting mixture was warmed to ambient temperature. The mixture was extracted with dichloromethane and the organic phase was washed successively with 1N hydrochloric acid, water and brine. The organic solution was dried over magnesium sulfate and the solvent was evaporated in vacuo to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-formylprop-1-yloxy)phenyl]benzamide (987 mg) as a syrup. The unstable aldehyde was immediately used for next step.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-ethoxycarbonylprop-1-yloxy)phenyl]benzamide | 1.10 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCC(=O)OCC)C)C=C1 | C34H34N2O5
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | toluene | 1.5 M, 2 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-formylprop-1-yloxy)phenyl]benzamide | 987 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCC=O)C)C=C1 | C32H30N2O4
